US04480105
3,5-Bis-(phenylthio)-phthalic acid N-p-toluylimide
3.9 g (10 mmols) of 5-nitro-3-phenylthiophthalic acid N-p-toluylimide, 1.4 g (10 mmols) of sodium thiophenolate and 80 ml of dimethyl sulfoxide are stirred for one hour at 25° C. The reaction mixture is taken up in water and chloroform and the organic phase is washed with water, dried over magnesium sulfate and evaporated. After recrystallisation from toluene, 4.1 g (91% of theory) of the title imide, with a melting point of 179°-180° C., are obtained.

reactant | 5-nitro-3-phenylthiophthalic acid N-p-toluylimide | 10 mmols, 3.9 g | C1(=CC=C(C=C1)N=C(C=1C(C(=S)O)=CC(=CC1C1=CC=CC=C1)[N+](=O)[O-])O)C | C21H16N2O4S
reactant | sodium thiophenolate | 10 mmols, 1.4 g | C1(=CC=CC=C1)[S-].[Na+]
reactant | dimethyl sulfoxide | 80 ml | CS(=O)C | C2H6OS
reactant | water | O | H2O
product | 3,5-Bis-(phenylthio)-phthalic acid N-p-toluylimide | C1(=CC=C(C=C1)N=C(C=1C(C(=O)O)=C(C=C(C1)SC1=CC=CC=C1)SC1=CC=CC=C1)O)C | C27H21NO3S2
